US08211908B2
To a solution of 87 mg of tert-butyl (3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)(1-(2-(7-methoxy-2-oxopyrido(2,3-b)pyrazin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 2 mL of dichloromethane, 2 mL of trifluoroacetic acid was added, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure, and chloroform and water were added thereto. The aqueous layer was separated and adjusted to pH 13.1 with a 20% aqueous sodium hydroxide solution. Chloroform was added thereto, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 54 mg of 1-(2-(4-((3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxypyrido(2,3-b)pyrazin-2(1H)-one as a yellowish brown oily substance.

reactant | tert-butyl (3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)(1-(2-(7-methoxy-2-oxopyrido(2,3-b)pyrazin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 87 mg | O1CCCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)N=CC(=C1)OC | C29H38N6O6
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-(4-((3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxypyrido(2,3-b)pyrazin-2(1H)-one | 54 mg | O1CCCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)N=CC(=C1)OC | C24H30N6O4
